US05622976
To a suspension of 4-cyanobutyltriphenylphosphonium bromide (21.80 g) in tetrahydrofuran (100 ml) was added potassium tert-butoxide (5.76 g) in tetrahydrofuran (50 ml) over 30 minutes at 0° C. After 1 hour, a solution of 1-benzyl-4-piperidone (8.84 g) was added to the mixture over 30 minutes at 0° C. The mixture was stirred at ambient temperature for 1 hour, poured into ice-water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on alumina eluting with chloroform/hexane (1:1) and the fractions containing the object compound were combined and evaporated to afford 1-benzyl-4-(4-cyanobutylidene)piperidine (9.8 g) as an oil.

reactant | 4-cyanobutyltriphenylphosphonium bromide | 21.80 g | [Br-].C(#N)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 5.76 g | CC(C)([O-])C.[K+]
reactant | 1-benzyl-4-piperidone | 8.84 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-benzyl-4-(4-cyanobutylidene)piperidine | 9.8 g | C(C1=CC=CC=C1)N1CCC(CC1)=CCCCC#N | C17H22N2
